US07745630B2
Preparation 36: N-(4-Chlorophenyl)-3-methylpiperazine-1-carbothioamide
A solution of 4-chlorophenyl isothiocyanate (8.0 g, 47.17 mmol) in dichloromethane (250 mL) was added dropwise over 30 minutes to an ice cooled solution of 2-methylpiperazine (9.45 g, 94.33 mmol) in dichloromethane (250 mL). Once the addition was complete, the reaction was stirred at room temperature for an hour. The reaction was then washed with water (3×), dried over MgSO4 and concentrated under reduced pressure, to give the title compound as a white solid, 11.8 g.

reactant | 4-chlorophenyl isothiocyanate | 47.17 mmol, 8.0 g | ClC1=CC=C(C=C1)N=C=S | C7H4ClNS
reactant | 2-methylpiperazine | 94.33 mmol, 9.45 g | CC1NCCNC1 | C5H12N2
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
product | N-(4-Chlorophenyl)-3-methylpiperazine-1-carbothioamide | ClC1=CC=C(C=C1)NC(=S)N1CC(NCC1)C | C12H16ClN3S
